US05126448
By following the same procedure as above using benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid as the starting material, 1-(benzo[b]thieno[2,3-c]pyridine-3-carbonyl)-2,6-dimethyl-piperidine and 4-(benzo[b]thieno[2,3-c]pyridine-3-carbonyl)-morpholine were obtained. (See Table 13-1, Table 13-2, Table 13-3).

reactant | benzo[b]thieno[2,3-c]pyridine-3-carboxylic acid | S1CC(=C2C13C(=NC=C2)C=CC=C3)C(=O)O | C12H9NO2S
reactant | 1-(benzo[b]thieno[2,3-c]pyridine-3-carbonyl)-2,6-dimethyl-piperidine | S1CC(=C2C13C(=NC=C2)C=CC=C3)C(=O)N3C(CCCC3C)C | C19H22N2OS
product | 4-(benzo[b]thieno[2,3-c]pyridine-3-carbonyl)-morpholine | S1CC(=C2C13C(=NC=C2)C=CC=C3)C(=O)N3CCOCC3 | C16H16N2O2S
